US05866568
A solution of sodium hydroxide (34.0 g) in water (155 ml) was added to a solution of diethyl 2-(4-bromobenzyl)-2-methylmalonate (29.2 g) in ethanol (165 ml), and then heated under reflux for 9 hours. The reaction mixture was cooled, the solvent was evaporated and the residue taken up in water (150 ml). Sodium hydroxide pellets were added (25.4 g) and the reaction mixture was heated under reflux for 2 hours. The reaction mixture was then cooled and acidified to pH<1 with concentrated hydrochloric acid, which caused precipitation of a solid. The reaction mixture was extracted with diethyl ether (3×150 ml), the combined organic layers were dried (MgSO4) and then the solvent was evaporated to give a white solid. This solid was heated at 205° C. for 20 minutes, cooled to ambient temperature, dissolved in 1.0M sodium hydroxide solution (150 ml), treated with activated charcoal and then filtered through diatomaceous earth. The resulting clear solution was re-acidified and then extracted with diethyl ether (3×150 ml). The combined organic layers were dried (MgSO4) and evaporated to give a yellow oil which crystallised on standing to give 2-methyl-3-(4-bromophenyl)propanoic acid as a white solid (18.2 g), m.p. 69°-70° C.; mass spectrum (+ve CI): 243 (M+H)+.

reactant | diethyl 2-(4-bromobenzyl)-2-methylmalonate | 29.2 g | BrC1=CC=C(CC(C(=O)OCC)(C(=O)OCC)C)C=C1 | C15H19BrO4
reactant | charcoal | C | CH4
solvent | water | 155 ml | O | H2O
solvent | ethanol | 165 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 1.0M, 150 ml | [OH-].[Na+]
solvent | sodium hydroxide | 34.0 g | [OH-].[Na+]
product | 2-methyl-3-(4-bromophenyl)propanoic acid | 18.2 g | CC(C(=O)O)CC1=CC=C(C=C1)Br | C10H11BrO2
